US07195719B1
[R]-5-hydroxymethyl-3-isobutyl-2(5H)-furanone
2.3 g of [R]-5-benzyloxymethyl-3-isobutyl-2(5H)-furanone, 150 mg of PdOH/C in 50 ml of ethanol was stirred at RT over night under H2 atmosphere. Then the catalyst was filtered out and filtrate was evaporated to dryness to give the pure compound in yield of 99%.

reactant | [R]-5-benzyloxymethyl-3-isobutyl-2(5H)-furanone | 2.3 g | C(C1=CC=CC=C1)OC[C@H]1C=C(C(O1)=O)CC(C)C | C16H20O3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | [R]-5-hydroxymethyl-3-isobutyl-2(5H)-furanone | yield of 99% | OC[C@H]1C=C(C(O1)=O)CC(C)C | C9H14O3
